US07700628B2
Preparation of 2-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methylsulfonyl)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide
The 2-[2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide (193 mg, 0.32 mmol) was dissolved in chloroform (5 mL). After the solution had been cooled to 0° C., 3-chloroperoxybenzoic acid (mCPBA) (259 mg, 0.87 mmol, 58% purity) was added in portions. After 30 minutes, the reaction was warmed to room temperature and calcium hydroxide (80 mg, 1.1 mmol) was added. After 5 minutes, the reaction was filtered and the filtrate was concentrated in vacuo. The crude material was purified by flash column chromatography (˜20 g silica, 10% EtOAc/CH2Cl2 through 100% EtOAc) to give the desired product (146 mg, 0.23 mmol, 73%) as a white solid.

reactant | 2-[2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.32 mmol, 193 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=CC(=C1)SC | C30H33ClN4O5S
reactant | 3-chloroperoxybenzoic acid | 0.87 mmol, 259 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | calcium hydroxide | 1.1 mmol, 80 mg | [OH-].[Ca+2].[OH-]
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methylsulfonyl)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.23 mmol, 146 mg, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=CC(=C1)S(=O)(=O)C | C30H33ClN4O7S
